US08058299B2
2-(1-benzyl-4-hydroxy-piperidin-4-yl)-2-methyl-propionic acid ethyl ester (3.24 g, 10.6 mmol) from above was dissolved in chloroform (13 mL) containing N,N-dimethylformamide (34 □L). To this solution was added thionyl chloride (1.56 mL). The mixture was refluxed overnight. Solvents were evaporated and the residue was extracted with ethyl acetate and sodium hydroxide (1N) solution. The organic layer was washed with brine and dried over sodium sulfate. After evaporation of solvents, the residue was purified using flash chromatography (eluting with ethyl acetate and hexanes) to give 2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-propionic acid ethyl ester (1.17 g) as an oily material. The NMR spectrum obtained on the sample is compatible with its structure. LC-MS calcd for C18H25NO2 (m/e) 287.4, obsd 288.2 (M+H).

reactant | 2-(1-benzyl-4-hydroxy-piperidin-4-yl)-2-methyl-propionic acid ethyl ester | 10.6 mmol, 3.24 g | C(C)OC(C(C)(C)C1(CCN(CC1)CC1=CC=CC=C1)O)=O | C18H27NO3
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.56 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-2-methyl-propionic acid ethyl ester | 1.17 g | C(C)OC(C(C)(C)C=1CCN(CC1)CC1=CC=CC=C1)=O | C18H25NO2
